US04842640
Reacted at 80° C. for 6 hours with stirring were 1.2 g of 5-t-butyl-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1,3,4-oxadiazol-2-one, 0.76 g of 3-bromopropyne, 40 ml of acetonitrile, and 0.3 g of potassium carbonate. After cooling, the reaction product was filtered and the filtrate was subjected to vacuum distillation to remove the solvent. To the residue was added 30 ml of methylene chloride, and the solution was washed with a 5% aqueous solution of sodium hydroxide and then with water. Upon removal of the solvent by distillation, 1.31 g of 5-t-butyl-3-(4-chloro-2-fluoro-5-propargyloxyphenyl)-1,3,4-oxadiazol-2-one was obtained. Upon recrystallization from n-hexane, a compound having a melting point of 72°-73° C. was obtained.

reactant | 5-t-butyl-3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1,3,4-oxadiazol-2-one | 1.2 g | C(C)(C)(C)C1=NN(C(O1)=O)C1=C(C=C(C(=C1)O)Cl)F | C12H12ClFN2O3
reactant | 3-bromopropyne | 0.76 g | BrCC#C | C3H3Br
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-t-butyl-3-(4-chloro-2-fluoro-5-propargyloxyphenyl)-1,3,4-oxadiazol-2-one | 1.31 g | C(C)(C)(C)C1=NN(C(O1)=O)C1=C(C=C(C(=C1)OCC#C)Cl)F | C15H14ClFN2O3
